US05212187
N-[7-[N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]heptyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.9 g (2.5 mmol) of N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,7-heptanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.65 g (2.8 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: methylene chloride) analogously to Example 63 yields the purified title compound in the form of a dry foam; MS (+FAB method): m/z (rel. int.[%])=615 ([M+H]+ 2), 214 (100); IR (KBr): 1632 cm-1 (C=O).

reactant | N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,7-heptanediamine | 2.5 mmol, 0.9 g | FC1=CC=C(C=C1)C(CCN(CCCCCCCN)C)C1=NC=CC=C1 | C22H32FN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 2.8 mmol, 0.65 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[7-[N-[3-(4-fluorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]heptyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | FC1=CC=C(C=C1)C(CCN(C)CCCCCCCNC(=O)NCCSCC=1N=C(SC1)NC(=N)N)C1=NC=CC=C1 | C30H43FN8OS2
